US07410991B2
Intermediate 11.1: tert-Butyl-(1-isobutyl-1-methyl-prop-2-ynyloxy)-dimethylsilane.
An oven-dried flask was charged with 3,6-dimethyl-1-heptyn-3-ol (1.0 g, 0.007 mol) and dry DMF (7.0 mL). To this solution, cooled in an ice bath, was added Et3N (3.6 mL, 0.025 mol) followed by dropwise addition of tert-butyldimethylsilyl trifluoromethanesulfonate (2.5 g, 0.014 mol) under nitrogen atmosphere. The resulting mixture was stirred at RT for 18 h and then diluted with EtOAc (80 mL). The organic layer was washed with saturated solution of NH4Cl (30 mL), water (4×20 mL), brine (40 mL), dried over sodium sulfate, and evaporated to afford the desired compound (1.8 g), as a yellow oil, used in the next step without further purification. Rf 0.9 (EtOAc/hexanes 1/9); 1H NMR (CDCl3) δ 0.15 (s, 6H), 0.88-0.84 (m, 15H), 1.38-1.29 (m, 1H), 1.42 (s, 3H), 1.54-1.48 (m, 2H), 1.62-1.55 (m, 2H), 2.38 (s, 1H).

reactant | 3,6-dimethyl-1-heptyn-3-ol | 0.007 mol, 1.0 g | CC(C#C)(CCC(C)C)O | C9H16O
reactant | DMF | 7.0 mL | CN(C)C=O | C3H7NO
reactant | Et3N | 0.025 mol, 3.6 mL | CCN(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl trifluoromethanesulfonate | 0.014 mol, 2.5 g | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
solvent | EtOAc | 80 mL | CCOC(=O)C | C4H8O2
product | tert-Butyl-(1-isobutyl-1-methyl-prop-2-ynyloxy)-dimethylsilane | 1.8 g | C(C)(C)(C)[Si](C)(C)OC(C#C)(C)CC(C)C | C14H28OSi
